US08877798B2
A. Preparation of (±)-1-(3,4-dichloro-phenyl)-3-aza-bicyclo[3.1.0]hexan-2-one
1-(3,4-dichlorophenyl)-3-aza-bicyclo[3.1.0]hexane-2,4-dione and toluene were combined in a 500 mL round-bottomed flask and stirred under Ar (g) for 10 min while cooling in an ice bath. Red-Al® was added via addition funnel drop-wise over several minutes. Upon complete addition, the ice bath was removed and the reaction stirred at ambient temperature overnight. The reaction mixture was cooled in an ice bath and 150 mL of 5N NaOH was carefully added. The phases were separated and the aqueous phase was extracted with toluene (2×100 mL), DCM (3×100 mL), and the organic layers combined. The organic layer was washed with brine (200 mL) and dried over sodium sulfate for 8 h. The mixture was filtered, concentrated in vacuo, and dried to afford 5 g of a dark brown semi-solid. The semi-solid was purified on a silica gel column eluting with 20% EtOAc in hexanes increasing the polarity to 30% EtOAc and finally 50% EtOAc. The desired fractions containing the product were combined, concentrated, and dried to afford a light yellow solid. Yield: 2.0 g 30%; LCMS (+) ESI: m/z=242 [M]+; m/z=264 [M+Na]+; 1H NMR (300 MHz, CDCl3) δ□ 7.52 (d, 1H, ArH), 7.39 (d, 1H, ArH), 7.28 (dd, 1H, ArH), 6.02 (bs, 1H, NH), 3.64 (dd, 1H, NHCH2), 3.40 (d, 1H, NHCH2), 2.28 (m, 1H, NHCH2CH), 1.50 (dd, 1H, ArCCH2), 1.26 (m, 1H, ArCCH2).

reactant | 1-(3,4-dichlorophenyl)-3-aza-bicyclo[3.1.0]hexane-2,4-dione | ClC=1C=C(C=CC1Cl)C12C(NC(C2C1)=O)=O | C11H7Cl2NO2
reactant | Red-Al | COCCO[AlH2-]OCCOC.[Na+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (±)-1-(3,4-dichloro-phenyl)-3-aza-bicyclo[3.1.0]hexan-2-one | 5 g | ClC=1C=C(C=CC1Cl)C12C(NCC2C1)=O | C11H9Cl2NO
